US05972975
By analogy to Example 71, Step A, the anion of 4,6-dimethyl-2-(2,5-dimethylpyrrol-1-yl)pyridine was alkylated with 2-iodopropane to give 4-methyl-6-(2-methylpropyl)-2-(2,5-dimethylpyrrol-1-yl)pyridine.

reactant | 4,6-dimethyl-2-(2,5-dimethylpyrrol-1-yl)pyridine | CC1=CC(=NC(=C1)C)N1C(=CC=C1C)C | C13H16N2
reactant | 2-iodopropane | IC(C)C | C3H7I
product | 4-methyl-6-(2-methylpropyl)-2-(2,5-dimethylpyrrol-1-yl)pyridine | CC1=CC(=NC(=C1)CC(C)C)N1C(=CC=C1C)C | C16H22N2
